US09278968B2
To a mixture of 410 mg of tert-butyl {(2S)-3-(benzyloxy)-1-[(2-cyanoethyl)amino]-1-oxopropan-2-yl}carbamate, 400 mg of triphenylphosphine, and 10 ml of acetonitrile were added 310 μl of diisopropyl azodicarboxylate and 210 μl of trimethylsilyl azide under ice-cooling, followed by stirring at room temperature for 22 hours. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 280 mg of tert-butyl {(1R)-2-(benzyloxy)-1-[1-(2-cyanoethyl)-1H-tetrazol-5-yl]ethyl}carbamate.

reactant | tert-butyl {(2S)-3-(benzyloxy)-1-[(2-cyanoethyl)amino]-1-oxopropan-2-yl}carbamate | 410 mg | C(C1=CC=CC=C1)OC[C@@H](C(=O)NCCC#N)NC(OC(C)(C)C)=O | C18H25N3O4
reactant | triphenylphosphine | 400 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 310 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | trimethylsilyl azide | 210 μl | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | tert-butyl {(1R)-2-(benzyloxy)-1-[1-(2-cyanoethyl)-1H-tetrazol-5-yl]ethyl}carbamate | 280 mg | C(C1=CC=CC=C1)OC[C@@H](C1=NN=NN1CCC#N)NC(OC(C)(C)C)=O | C18H24N6O3
